US06552012B2
3-Chloro-5-ethoxypyridine
Sodium (8.1 g, 338 mmol) was added to ethanol (200 ml). After complete reaction, the excess of ethanol was evaporated. 3,5-Dichloropyridine (40.0 g, 270 mmol) and dimethyl sulfoxide (300 ml) were added to the crude mixture. The mixture was stirred at 70° C. for 1 h. Water (500 ml) was added, followed by extraction twice with ethyl acetate (300 ml). The product was isolated in quantitative yield.

reactant | Sodium | 338 mmol, 8.1 g | [Na] | Na
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 3,5-Dichloropyridine | 270 mmol, 40.0 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | Water | 500 ml | O | H2O
product | 3-Chloro-5-ethoxypyridine | quantitative yield | ClC=1C=NC=C(C1)OCC | C7H8ClNO
